US07696229B2
NaH (600 mg, 15.00 mmol) was added (in several batches) to a solution of 5-bromo-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole (3 g, 9.79 mmol) in DMF (60 mL) while cooling to a temperature of 0-5° C. The resulting solution was stirred for 1 hour while the temperature was maintained at room temperature. Benzenesulfonyl chloride (2.3 g, 12.89 mmol) was then added dropwise and the reaction was stirred for an additional 4 hours at room temperature. After filtration, the filter cake was washed with ethanol (2×50 mL) and the resulting solid was dried to afford 0.4 g (10%) of 5-bromo-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1-phenylsulfonyl)-1H-indole as a white solid. 1H NMR (DMSO) δ 8.04 (4H), 7.95 (1H), 7.73 (1H), 7.32-7.63 (3H), 6.29 (s, 1H), 3.98 (2H), 3.68 (2H), 2.72-2.89 (5H). m/z 434.1 (M++1)

reactant | NaH | 15.00 mmol, 600 mg | [H-].[Na+]
reactant | 5-bromo-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 9.79 mmol, 3 g | BrC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | C14H15BrN2
reactant | Benzenesulfonyl chloride | 12.89 mmol, 2.3 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 1H-indole | N1C=CC2=CC=CC=C12 | C8H7N
